US07714132B2
Intermediate 1: Ethyl (1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-acetate hydrochloride
A solution of ethyl (2-tert.-butoxycarbonyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-acetate (8.45 g, 23.6 mmol) in ethyl acetate (80 ml) is treated with a solution of 3M HCl in ethyl acetate (39.3 ml). After stirring at room temperature for 3 h, the solvent is removed in vacuo and the residue azeotroped twice with toluene. The crude product is suspended in diethyl ether, filtered off, washed with diethyl ether and dried. Finally, pure title compound is obtained as beige solid (5.49 g) in 79% yield. tR (LC-2) 1.41 min; ESL-MS (positive ion): m/z 259.33 [M+H]+ (calcd 258.32 for C15H18N2O2).

reactant | ethyl (2-tert.-butoxycarbonyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-acetate | 23.6 mmol, 8.45 g | C(C)(C)(C)OC(=O)N1CC2=C(N(C=3C=CC=CC23)CC(=O)OCC)CC1 | C20H26N2O4
reactant | HCl | 3M | Cl | ClH
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 39.3 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl (1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-acetate hydrochloride | 79% yield | Cl.C1NCCC=2N(C=3C=CC=CC3C21)CC(=O)OCC | InChI=1S/C15H18N2O2.ClH/c1-2-19-15(18)10-17-13-6-4-3-5-11(13)12-9-16-8-7-14(12)17;/h3-6,16H,2,7-10H2,1H3;1H
